US06307047B1
2-Benzyl-4-(4-fluorophenyl)-5-methoxy-3(2H)-pyridazinone
To a mixture of 2-benzyl-5-methoxy-4-bromo-3(2H)-pyridazinone, prepared according to the method of (S. Cho et al. described in J. Het. Chem., (1996), 33, 1579-1582), (2.94 g; 10 mmol), 4-fluorobenzeneboronic acid (1.54 g; 11 mmol), and CsF (3.04 g; 22 mmol) in 25 mL of anhydrous DME, under N2, was added Pd(Ph3P)4 (347 mg 0.3 mmol). After addition, the mixture was heated at reflux for at 100° C., for 18 hours. The mixture was concentrated in vacuo and the residue partitioned between ethyl acetate and water. The acetate layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The solid residue was suspended in ethyl ether-hexanes and filtered to provide a solid product (yield: 3.1 g; about 100%; >95% purity). 1H NMR (300 MHz, CDCl3) δ 3.90 (s, 3H), 5.36 (s, 2H), 7.09 (t, J=9 Hz, 2H), 7.31 (m, 3H), 7.50 (m, 4H), 7.91 (s, 1H). MS (DCI/NH3) m/z 311 (M+H)+, 328 (M+NH4)+.

reactant | 2-benzyl-5-methoxy-4-bromo-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Br)OC | C12H11BrN2O2
reactant | 4-fluorobenzeneboronic acid | 10 mmol, 2.94 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | CsF | 22 mmol, 3.04 g | [F-].[Cs+]
reactant | NH3 | N | H3N
solvent | DME | 25 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 0.3 mmol, 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Benzyl-4-(4-fluorophenyl)-5-methoxy-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)OC | C18H15FN2O2
